* /home/sysad/downloads/esim-1.1.3/examples/74ls83a-test/74ls83a-test.cir

.include 74LS83A.sub
x1 net-_x1-pad1_ s3 net-_x1-pad3_ net-_x1-pad4_ net-_x1-pad5_ s2 net-_x1-pad7_ net-_x1-pad8_ s1 net-_x1-pad10_ net-_x1-pad11_ gnd net-_x1-pad13_ c4 s4 net-_x1-pad16_ 74LS83A
v2  net-_x1-pad4_ gnd 0
v1  net-_x1-pad7_ gnd 0
v7  net-_x1-pad16_ gnd 5
v8  net-_x1-pad11_ gnd 0
r1  s3 gnd 1k
r2  s2 gnd 1k
r3  s1 gnd 1k
r4  s4 gnd 1k
r6  c4 gnd 1k
* u3  s3 plot_v1
* u2  s2 plot_v1
* u1  s1 plot_v1
* u6  c4 plot_v1
* u5  ? plot_v1
* u4  s4 plot_v1
v9  net-_x1-pad13_ gnd 5
v10 net-_x1-pad5_ gnd  dc 5
v3  net-_x1-pad3_ gnd pulse(0 5 50e-3 0 0 25e-3 100e-3)
v4  net-_x1-pad1_ gnd pulse(0 5 75e-3 0 0 25e-3 100e-3)
v5  net-_x1-pad8_ gnd pulse(0 5 25e-3 0 0 25e-3 100e-3)
v6  net-_x1-pad10_ gnd pulse(0 5 0 0 0 25e-3 100e-3)
.tran 0.1e-03 105e-03 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(s3)
plot v(s2)
plot v(s1)
plot v(c4)
plot v(?)
plot v(s4)
.endc
.end
